* SPICE3 file created from dac.ext - technology: sky130A

X0 a_130_0# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
X1 a_260_2000# VB a_130_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X2 a_8190_2400# VB a_8060_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X3 a_7410_2400# VB a_7280_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X4 a_1040_1200# VB a_910_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X5 a_390_1600# VB a_260_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X6 a_3120_2000# VB a_2990_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X7 a_910_2000# VB a_780_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X8 a_650_2400# VB a_520_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X9 a_2080_2400# VB a_1950_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X10 a_1300_2400# VB a_1170_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X11 a_260_400# VB a_130_400# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X12 a_5070_2400# VB a_4940_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X13 Vout b4 a_2080_1600# GND sky130_fd_pr__nfet_01v8 ad=8 pd=33 as=8 ps=33 w=16 l=0.15
X14 a_4290_2400# VB a_4160_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X15 a_520_1200# VB a_390_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X16 a_1430_1600# VB a_1300_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X17 a_2730_2000# VB a_2600_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X18 a_3510_2400# VB a_3380_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X19 a_1950_2000# VB a_1820_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X20 a_130_2000# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X21 a_8060_2400# VB a_7930_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X22 a_7280_2400# VB a_7150_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X23 a_130_400# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X24 a_6500_2400# VB a_6370_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X25 a_5720_2400# VB a_5590_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X26 a_260_1600# VB a_130_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X27 a_780_2000# VB a_650_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X28 a_2210_2000# VB a_2080_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X29 a_910_1600# VB a_780_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X30 a_1170_2400# VB a_1040_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X31 VB GND GND sky130_fd_pr__res_xhigh_po_0p35 l=10.66
X32 Vout b2 a_520_800# GND sky130_fd_pr__nfet_01v8 ad=2 pd=9 as=2 ps=9 w=4 l=0.15
X33 a_4160_2400# VB a_4030_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X34 a_390_1200# VB a_260_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X35 a_3380_2400# VB a_3250_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X36 a_2600_2400# VB a_2470_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X37 a_1820_2400# VB a_1690_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X38 a_7150_2400# VB a_7020_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X39 Vout b1 a_260_400# GND sky130_fd_pr__nfet_01v8 ad=1 pd=5 as=1 ps=5 w=2 l=0.15
X40 a_6370_2400# VB a_6240_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X41 a_5590_2400# VB a_5460_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X42 a_4810_2400# VB a_4680_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X43 a_1950_1600# VB a_1820_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X44 a_130_1600# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X45 a_650_2000# VB a_520_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X46 a_2080_2000# VB a_1950_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X47 a_1300_2000# VB a_1170_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X48 a_7800_2400# VB a_7670_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X49 a_7020_2400# VB a_6890_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X50 a_780_1600# VB a_650_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X51 a_3510_2000# VB a_3380_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X52 a_1040_2400# VB a_910_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X53 a_4030_2400# VB a_3900_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X54 a_260_1200# VB a_130_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X55 a_3250_2400# VB a_3120_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X56 a_2470_2400# VB a_2340_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X57 a_1690_2400# VB a_1560_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X58 VB VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
X59 a_6240_2400# VB a_6110_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X60 a_5460_2400# VB a_5330_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X61 a_4680_2400# VB a_4550_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X62 a_910_1200# VB a_780_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X63 a_3900_2400# VB a_3770_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X64 a_520_2400# VB a_390_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X65 a_1170_2000# VB a_1040_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X66 a_7670_2400# VB a_7540_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X67 a_6890_2400# VB a_6760_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X68 a_650_1600# VB a_520_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X69 a_4160_2000# VB a_4030_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X70 a_3380_2000# VB a_3250_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X71 a_2080_1600# VB a_1950_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X72 a_2600_2000# VB a_2470_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X73 a_1300_1600# VB a_1170_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X74 a_1820_2000# VB a_1690_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X75 a_130_1200# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X76 a_2340_2400# VB a_2210_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X77 a_1560_2400# VB a_1430_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X78 a_5330_2400# VB a_5200_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X79 a_4550_2400# VB a_4420_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X80 a_780_1200# VB a_650_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X81 a_3770_2400# VB a_3640_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X82 a_2990_2400# VB a_2860_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X83 a_390_2400# VB a_260_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X84 a_1040_2000# VB a_910_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X85 Vout b0 a_130_0# GND sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.5 ps=3 w=1 l=0.15
X86 a_7540_2400# VB a_7410_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X87 a_6760_2400# VB a_6630_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X88 Vout b3 a_1040_1200# GND sky130_fd_pr__nfet_01v8 ad=4 pd=17 as=4 ps=17 w=8 l=0.15
X89 a_5980_2400# VB a_5850_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X90 a_4030_2000# VB a_3900_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X91 a_3250_2000# VB a_3120_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X92 a_2470_2000# VB a_2340_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X93 a_1170_1600# VB a_1040_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X94 a_1690_2000# VB a_1560_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X95 a_3900_2000# VB a_3770_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X96 a_1820_1600# VB a_1690_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X97 a_1430_2400# VB a_1300_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X98 a_520_2000# VB a_390_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X99 a_520_800# VB a_390_800# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X100 a_650_1200# VB a_520_1200# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X101 a_3640_2400# VB a_3510_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X102 a_2860_2400# VB a_2730_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X103 a_260_2400# VB a_130_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X104 a_6630_2400# VB a_6500_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X105 a_5850_2400# VB a_5720_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X106 a_390_800# VB a_260_800# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X107 a_2340_2000# VB a_2210_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X108 a_910_2400# VB a_780_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X109 a_3120_2400# VB a_2990_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X110 a_1040_1600# VB a_910_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X111 a_1560_2000# VB a_1430_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X112 a_3770_2000# VB a_3640_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X113 a_6110_2400# VB a_5980_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X114 a_1690_1600# VB a_1560_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X115 a_2990_2000# VB a_2860_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X116 a_390_2000# VB a_260_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X117 a_260_800# VB a_130_800# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X118 a_8320_2400# VB a_8190_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X119 a_2730_2400# VB a_2600_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X120 a_520_1600# VB a_390_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X121 a_130_2400# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X122 a_1950_2400# VB a_1820_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X123 a_4940_2400# VB a_4810_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X124 a_130_800# VB VDD VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X125 a_780_2400# VB a_650_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X126 a_1430_2000# VB a_1300_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X127 a_7930_2400# VB a_7800_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X128 a_2210_2400# VB a_2080_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X129 Vout b5 a_4160_2000# GND sky130_fd_pr__nfet_01v8 ad=16 pd=65 as=16 ps=65 w=32 l=0.15
X130 a_5200_2400# VB a_5070_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X131 Vout b6 a_8320_2400# GND sky130_fd_pr__nfet_01v8 ad=32 pd=129 as=32 ps=129 w=64 l=0.15
X132 a_3640_2000# VB a_3510_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X133 a_4420_2400# VB a_4290_2400# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X134 a_1560_1600# VB a_1430_1600# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X135 a_2860_2000# VB a_2730_2000# VDD sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
C0 VDD VB 18.0279f
C1 a_8320_2400# Vout 12.7377f
C2 a_2080_1600# Vout 3.18823f
C3 a_4160_2000# Vout 6.50283f
C4 Vout GND 31.8645f
C5 VB GND 11.7225f
C6 VDD GND 24.8832f
C7 a_1040_1200# GND 2.00119f **FLOATING
C8 a_2080_1600# GND 2.60211f **FLOATING
C9 a_4160_2000# GND 3.6586f **FLOATING
C10 a_8320_2400# GND 4.11317f **FLOATING
